* Copyright (c) 1998-2024 Analog Devices, Inc.  All rights reserved.
*
.subckt ADA4522-4 1 2 3 4 5
C1 Clamp COM {Cfp1}
B1 COM Clamp I=Uplim(Dnlim({Aol2/1Meg}*V(Aol1,COM), {Isink}-V(SB,COM)*350,1m),{Isrc},1m)
G2 0 Vcc_Int N052 0 1
G3 0 Vee_Int N055 0 1
R6 Vcc_Int 0 1 Temp=-273.15
R7 Vee_Int 0 1 Temp=-273.15
R8 N050 Vcc_Int 1Meg Temp=-273.15
R9 N050 Vee_Int 1Meg Temp=-273.15
C2 N050 0 1
R25 Aol2 COM 1Meg Temp=-273.15
G7 COM Aol2 Clamp COM 1µ
C14 Vcc_Int 0 1n
C15 Vee_Int 0 1n
R1 N003 N020 {Rser} Temp=-273.15
R82 N055 4 1µ Temp=-273.15
A1 Inn1 Inp1 COM COM COM COM Aol1 COM OTA G=100u Iout=1m Vhigh=1k Vlow=-1k
R47 N052 3 1µ Temp=-273.15
R38 Aol1 COM 1Meg Temp=-273.15
R78 Clamp COM 1Meg Temp=-273.15
Iq N052 N055 {Iq_on}
R45 Vimon COM 1k Temp=-273.15
C34 COM 0 1n
G30 N052 N055 Vimon COM 1
C38 Aol2 COM {Cfp2}
Vimon N018 5 0
F1 COM Vimon Vimon 1m
DGP N046 Clamp DG
DGN Clamp N047 DG
C11 Vsatp2 Vcc_Int 1n
B2 Vsatp1 Vcc_Int I=1m*Max(Mp*(V(Vimon,COM))+OSp,40u)
C12 Vsatp1 Vcc_Int 1n
B5 Vsatp2 Vcc_Int I=1m*Max((V(Vimon,COM)/(Ap+Bp*(V(Vimon,COM)**Gp))),40u)
R18 Vsatp1 Vcc_Int 1k Temp=-273.15
R19 Vsatp2 Vcc_Int 1k Temp=-273.15
R20 Satp COM 1k Temp=-273.15
C13 Satp COM 1p
B9 COM Satp I=1m*Min(V(Vsatp1,COM), V(Vsatp2,COM))
B10 Vee_Int N039 I=1m*Max(Mn*(-V(Vimon,COM))+OSn,40u)
C19 N039 Vee_Int 1n
R21 N039 Vee_Int 1k Temp=-273.15
Rx N018 N017 {Rx_Zo} Temp=-273.15
Rdummy N018 COM {Rdummy_Zo} Temp=-273.15
G4 COM Cap2L N026 N018 {G1_Zo}
R4 Cap2L COM 1 Temp=-273.15
R5 Cap2L Cap2R {R1a_Zo} Temp=-273.15
R13 Cap2R COM {R2a_Zo} Temp=-273.15
G8 COM N004 Cap2R COM {G2_Zo}
C3 Cap2R Cap2L {C1a_Zo}
R22 N004 N005 {R2b_Zo} Temp=-273.15
R23 N005 N022 {R1b_Zo} Temp=-273.15
C4 COM N022 {C1b_Zo}
R24 N008 ZoF {R1d_Zo} Temp=-273.15
R26 ZoF COM {R2d_Zo} Temp=-273.15
C5 ZoF N008 {C1d_Zo}
R27 N004 COM 1 Temp=-273.15
Gb1 COM N006 N005 COM 1
R28 N006 COM 1 Temp=-273.15
R29 N008 COM 1 Temp=-273.15
R30 N006 N007 {R1d_Zo} Temp=-273.15
R31 N007 COM {R2d_Zo} Temp=-273.15
C18 N007 N006 {C1d_Zo}
Gb2 COM N008 N007 COM {G4_Zo}
R32 N017 COM 1 Temp=-273.15
S1 Cap2R Cap2L OL COM OL
F2 COM OLp VGP 1m
A2 OLp OLn COM COM COM COM OL COM OR Ref=100u Vh=50u Trise=10n
R3 OLp COM 1k
F3 COM OLn VGN -1m
R33 OLn COM 1k
C20 OLp COM 10n
C21 OLn COM 10n
C22 OL COM 10p
VGN N047 N049 0
VGP N046 N048 0
R34 N013 N014 {R1b_Aol} Temp=-273.15
R35 N014 COM {R2b_Aol} Temp=-273.15
G1 COM N015 N014 COM {G2_Aol}
C24 N014 N013 {C1b_Aol}
R36 N013 COM 1 Temp=-273.15
R39 N015 COM 1 Temp=-273.15
R40 N015 N016 {R1b_Aol} Temp=-273.15
R41 N016 COM {R2b_Aol} Temp=-273.15
G9 COM N023 N016 COM {G2_Aol}
C28 N016 N015 {C1b_Aol}
R42 N023 COM 1 Temp=-273.15
G10 COM N013 Aol2 COM 1
R43 N024 COM 1Meg Temp=-273.15
G11 COM N024 N023 COM 1µ
C29 N024 COM {Cfp3}
R46 N025 COM 1Meg Temp=-273.15
G12 COM N025 N024 COM 1µ
C30 N025 COM {Cfp4}
R48 N026 COM 1Meg Temp=-273.15
G13 COM N026 N025 COM 1µ
C31 N026 COM {Cfp4}
G18 N021 Inp1 N038 N037 1m
R51 Inp1 N021 1k Temp=-273.15
C32 N035 N036 {C1a_PSRp}
G19 COM N036 VCC_Int COM {G1_PSRp}
R52 N036 COM 1 Temp=-273.15
R55 N035 N036 {R1a_PSRp} Temp=-273.15
R56 N035 COM {R2a_PSRp} Temp=-273.15
C33 N028 N027 {C1a_PSRn}
G20 COM N027 VEE_Int COM {G1_PSRn}
R57 N027 COM 1 Temp=-273.15
R58 N028 N027 {R1a_PSRn} Temp=-273.15
R59 N028 COM {R2a_PSRn} Temp=-273.15
C35 N030 N029 {C1b_PSRn}
R60 N029 COM 1 Temp=-273.15
R61 N030 N029 {R1b_PSRn} Temp=-273.15
R63 N030 COM {R2b_PSRn} Temp=-273.15
G21 COM N031 N030 COM {G2_PSRn}
R64 N037 COM 1 Temp=-273.15
G23 COM N029 N028 COM 1
C36 N032 N031 {C1c_PSRn}
R65 N031 COM 1 Temp=-273.15
R66 N032 N031 {R1c_PSRn} Temp=-273.15
R67 N032 COM {R2c_PSRn} Temp=-273.15
G24 COM N037 N032 COM {G3_PSRn}
R68 N034 N033 {R1b_PSRp} Temp=-273.15
R69 N033 COM {R2b_PSRp} Temp=-273.15
G26 COM N038 N033 COM {G2_PSRp}
C37 N033 N034 {C1b_PSRp}
G27 COM N034 N035 COM 1
R70 N034 COM 1 Temp=-273.15
R71 N038 COM 1 Temp=-273.15
R74 N056 COM 100k Noiseless
R75 N057 COM 100k Noiseless
G29 COM I_np N056 COM 1
RI_np1 I_np COM 1 Temp=-273.15
G31 COM I_nn N057 COM 1
RI_nn1 I_nn COM 1 Temp=-273.15
A4 COM COM COM COM COM COM N057 COM OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En=Table(freq, 0.1, 780f, 10, 720f, 1k, 780f, 1.98k, 850f, 2.96k, 955f, 3.7k, 1.08p, 4.47k, 1.42p, 5.49k, 1.1p, 6.51k, 970f, 9.93k, 814f, 13.2k, 672f, 16.5k, 577f, 20k, 415f, 23.3k, 296f, 25.3k, 182f)
A5 COM COM COM COM COM COM N056 COM OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En=Table(freq, 0.1, 780f, 10, 720f, 1k, 780f, 1.98k, 850f, 2.96k, 955f, 3.7k, 1.08p, 4.47k, 1.42p, 5.49k, 1.1p, 6.51k, 970f, 9.93k, 814f, 13.2k, 672f, 16.5k, 577f, 20k, 415f, 23.3k, 296f, 25.3k, 182f)
R76 N009 N012 1k Temp=-273.15
B17 N012 N009 I=1m*{Vos+Drift* (Temp-25)}
G32 N010 N011 N002 COM 1m
R77 N011 N010 1k Temp=-273.15
R79 N010 N009 1k Temp=-273.15
G33 N009 N010 E_n COM 1m
C39 N002 N001 {C1a_CMR}
G34 COM N001 N003 COM {G1_CMR}
R80 N002 N001 {R1a_CMR} Temp=-273.15
R81 N002 COM {R2a_CMR} Temp=-273.15
R83 N001 COM 1 Temp=-273.15
G35 COM IVR N003 COM 1m
G36 COM Inn1 N044 COM 1k
R84 COM IVR 1k Temp=-273.15
R85 COM Inn1 1m Temp=-273.15
C40 Inn1 COM 1.59n
C41 IVR COM 1.59f
Ibp N003 COM {Ib}
Ibn N044 COM {Ib-Ios}
G37 N003 COM I_np COM 1
G38 N044 COM I_nn COM 1
R2 N044 N043 {Rser} Temp=-273.15
Cinp COM N003 {Ccm}
Cinn N044 COM {Ccm}
Rinn N044 COM {Rcm} Temp=-273.15
Rinp COM N003 {Rcm} Temp=-273.15
A6 In_diff COM COM COM COM SB COM COM SCHMITT Vt=-14.9 Vh=100m Trise=15n
R86 SB COM 1G Temp=-273.15
G39 COM In_diff 1 2 1m
R87 In_diff COM 1k Temp=-273.15
G28 COM N021 N011 COM 1k
R72 COM N021 1m Temp=-273.15
C42 N021 COM 1.59n
C43 Aol1 COM 1.59e-18
G15 COM N048 GRpi COM 1k
G16 COM N049 GRni COM 1k
R11 N048 COM 1m Temp=-273.15
R12 N049 COM 1m Temp=-273.15
R37 GRpi COM 1k Temp=-273.15
R44 GRni COM 1k Temp=-273.15
C6 GRni COM 10p
C7 GRpi COM 10p
S2 3 5 5 3 ESDO
S3 5 4 4 5 ESDO
DOP Vsatp N018 DO
DON N018 Vsatn DO
G5 COM Vsatp Satp COM 1k
R92 Vsatp COM 1m
G6 COM Vsatn N039 COM 1k
R93 Vsatn COM 1m
C10 Vimon COM 1.59f
S4 3 N012 N012 3 ESDI
S5 3 Inn1 Inn1 3 ESDI
S6 N012 4 4 N012 ESDI
S7 Inn1 4 4 Inn1 ESDI
C9 N018 Vsatp 1p
C16 N018 Vsatn 1p
C27 Clamp N048 1f
C44 Clamp N049 1f
Cdiff N003 N044 {Cdiff}
C45 SB COM 1p
C46 N020 COM 10f
C47 N043 COM 10f
B6 COM GRpi I=1m*({Zo_max}* {Iscp}+V(3,COM))
B7 COM GRni I=1m*({Zo_max}* {Iscn}+V(4,COM))
C17 Vsatp COM 1n
C23 Vsatn COM 1n
E1 COM 0 N050 0 1
R10 COM 0 1Meg Temp=-273.15
B4 COM N017 I=Uplim(Dnlim(V(ZoF,COM)*{G4_Zo}, {Izon}, 25m), {Izop}, 25m)
C8 I_np COM 1.59p
C26 I_nn COM 1.59p
C51 N037 COM 1.59p
C52 N038 COM 1.59p
R16 N020 1 1m Temp=-273.15
R17 N043 2 1m Temp=-273.15
B3 COM CMpi I=1m*(V(3,COM)+{Vcm_max}) Cpar=1n
G17 COM CMp CMpi COM 1k
R53 COM CMp 1m Temp=-273.15
B8 COM CMni I=1m*(V(4,COM)+{Vcm_min}) Cpar=1n
G22 COM CMn CMni COM 1k
R54 COM CMn 1m Temp=-273.15
R62 CMpi COM 1k Temp=-273.15
R88 CMni COM 1k Temp=-273.15
DIP CMp IVR DI
DIN IVR CMn DI
C54 IVR CMn 1f
C48 IVR CMp 1f
G14 COM N012 IVR COM 1k
R14 COM N012 1m Temp=-273.15
C49 N012 COM 1.59n
C25 2 COM 1f
Rdiff N003 N044 {Rdiff} Temp=-273.15
A3 COM N053 COM COM COM COM E_n COM OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En=Table(freq, 10.1, 6.5n, 109k, 6.5n, 126k, 7n, 170k, 7.9n, 220k, 8.71n, 224k, 8.71n, 275k, 9.4n, 402k, 11n, 627k, 13.4n, 755k, 14.6n, 916k, 14.9n, 1.16Meg, 13.1n, 1.37Meg, 11.3n, 1.65Meg, 9.86n, 1.95Meg, 9.77n, 2.18Meg, 10.9n, 2.7Meg, 13.2n, 3.27Meg, 16.7n, 4.07Meg, 19.9n, 4.21Meg, 31.1n, 4.55Meg, 22.6n, 5.13Meg, 24.6n, 6.03Meg, 25.9n, 9.27Meg, 27.6n, 12.5Meg, 26.8n, 16.9Meg, 22.7n, 20.2Meg, 16.2n, 25Meg, 6.8n, 30.5Meg, 2.2n, 33.7Meg, 1.34n, 46.8Meg, 4n, 56.4Meg, 6.2n, 59.8Meg, 6.8n, 85.3Meg, 12.7n, 106Meg, 19.0n)
R73 E_n COM 100k Noiseless
A7 COM COM COM COM COM COM N053 COM OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={fA}/(freq**{M})
R89 N053 COM 100k Noiseless
C50 E_n COM 159f
.param Vos=714n Drift=5.23n
.param Ib=83.90p Ios=147.79p
.param Vcm_min=0 Vcm_max=-1.5
.param Vsmin=4.5 Vsmax=55
.param Iscp=21m Iscn=-33m
.param Iq_on=830u Iq_off=1u
.param IZop={Rx_Zo*Iscp} IZon={Rx_Zo*Iscn}
.model DI D(Vfwd=1k Vrev=0 Revepsilon=0.1 Noiseless)
.model DG D(Vfwd=10k Vrev=0 Revepsilon=0.5 Noiseless Ron=1m)
.model DO D(Vfwd=1k Vrev=0 Revepsilon=0.1 Ron=1m)
.model LIM D(Vfwd=1n Vrev=1n Ron=1m Roff=1m Ilimit={Iscp} Revilimit={-Iscn} Epsilon=1u)
.model ESDI SW(Ron=50 Roff=1T Vt=300m Vh=-150m Vser=0.1 Noiseless)
.model ESDO SW(Ron=50 Roff=1G Vt=0.5 Vh=-0.1 Vser=0.6 Ilimit=4m Lser=1n Noiseless)
.model OL SW(Ron=10m Roff=1G Vt=500m Vh=-100m Noiseless)
.param Mp=57.8 OSp=5.5m
.param Ap=15m Bp=-4.14e4 Gp=4.5
.param Mn=69.7 OSn=5.5m ;OSn=2.6m
.param beta_Zo=1.13
.param Rx_Zo = {100 * Zo_max}
.param Rdummy_Zo = {10 * Zo_max}
.param G1_Zo={Rx_Zo/(Zo_dc*beta_Zo)}
.param Zo_dc=1k
.param Zo_max={Zo_dc}
.param R1a_Zo=1Meg
.param fz1_Zo=75m
.param fp1_Zo=45
.param C1a_Zo = {1 / (2 * pi * R1a_Zo * fz1_Zo)}
.param R2a_Zo = {R1a_Zo/ ((2 * pi * fp1_Zo * C1a_Zo
+* R1a_Zo) - 1)}
.param actual1_Zo = {R2a_Zo / (R1a_Zo + R2a_Zo)}
.param G2_Zo = {1/actual1_Zo}
.param R1d_Zo=10k
.param fz4_Zo=26Meg
.param fp4_Zo=100G
.param C1d_Zo = {1 / (2 * pi * R1d_Zo * fz4_Zo)}
.param R2d_Zo = {R1d_Zo/ ((2 * pi * fp4_Zo * C1d_Zo
+* R1d_Zo) - 1)}
.param actual4_Zo = {R2d_Zo / (R1d_Zo + R2d_Zo)}
.param G4_Zo = {1/actual4_Zo}
.param R1b_Zo=100k
.param fp2_Zo=150k
.param fz2_Zo= 26Meg
.param C1b_Zo = {1 / (fz2_Zo * R1b_Zo * 2 * pi)}
.param R2b_Zo = {(1 / (fp2_Zo * C1b_Zo * 2 * pi))
+- R1b_Zo}
.param Aol_PB=151
.param SRp=1.8 SRn=-0.86
.param fp1=75m fp2=3.5Meg fp3=4.95Meg fp4=120Meg
.param Aol2_dB = {Aol_PB-40+1}
.param Aol2 = {pwr(10, (Aol2_dB)/20)}
.param Cfp1={1 / (2 * pi * fp1 * 1Meg)}
.param Cfp2={1 / (2 * pi * fp2 * 1Meg)}
.param Cfp3={1 / (2 * pi * fp3 * 1Meg)}
.param Cfp4={1 / (2 * pi * fp4 * 1Meg)}
.param Isrc = {Cfp1 * SRp * 1Meg} Isink = {Cfp1 * SRn * 1Meg}
.param C1b_Aol = {1 / (2 * pi * R1b_Aol * fz2_Aol)}
.param R2b_Aol = {R1b_Aol/ ((2 * pi * fp2_Aol * C1b_Aol
+* R1b_Aol) - 1)}
.param actual2_Aol = {R2b_Aol / (R1b_Aol + R2b_Aol)}
.param G2_Aol={1/actual2_Aol}
.param R1b_Aol=10k
.param fz2_Aol=4Meg
.param fp2_Aol=25Meg
.param gain_PSRn = {pow(10, (-Rej_dc_PSRn/20))}
.param C1a_PSRn = {1 / (2 * pi * R1a_PSRn * fz1_PSRn)}
.param R2a_PSRn = {R1a_PSRn/ ((2 * pi * fp1_PSRn * C1a_PSRn
+* R1a_PSRn) - 1)}
.param actual1_PSRn = {R2a_PSRn / (R1a_PSRn + R2a_PSRn)}
.param G1_PSRn = {gain_PSRn/actual1_PSRn}
.param C1b_PSRn = {1 / (2 * pi * R1b_PSRn * fz2_PSRn)}
.param R2b_PSRn = {R1b_PSRn/ ((2 * pi * fp2_PSRn * C1b_PSRn
+* R1b_PSRn) - 1)}
.param actual2_PSRn = {R2b_PSRn/ (R1b_PSRn + R2b_PSRn)}
.param G2_PSRn = {1/actual2_PSRn}
.param C1c_PSRn = {1 / (2 * pi * R1c_PSRn * fz3_PSRn)}
.param R2c_PSRn = {R1c_PSRn/ ((2 * pi * fp3_PSRn * C1c_PSRn
+* R1c_PSRn) - 1)}
.param actual3_PSRn = {R2c_PSRn/ (R1c_PSRn + R2c_PSRn)}
.param G3_PSRn = {1/actual3_PSRn}
.param Rej_dc_PSRn=159.3
.param R1a_PSRn=100Meg
.param fz1_PSRn=40m
.param fp1_PSRn=1k
.param R1b_PSRn=1Meg
.param fz2_PSRn=1.5k
.param fp2_PSRn=70k
.param R1c_PSRn=1Meg
.param fz3_PSRn=160k
.param fp3_PSRn=13Meg
.param gain_PSRp = {pow(10, (-Rej_dc_PSRp/20))}
.param C1a_PSRp = {1 / (2 * pi * R1a_PSRp * fz1_PSRp)}
.param R2a_PSRp = {R1a_PSRp/ ((2 * pi * fp1_PSRp * C1a_PSRp
+* R1a_PSRp) - 1)}
.param actual1_PSRp = {R2a_PSRp / (R1a_PSRp + R2a_PSRp)}
.param G1_PSRp = {gain_PSRp/actual1_PSRp}
.param Rej_dc_PSRp=161
.param R1a_PSRp=1Meg
.param fz1_PSRp=900
.param fp1_PSRp=45Meg
.param C1b_PSRp={1 / (2 * pi * R1b_PSRp * fz2_PSRp)}
.param R2b_PSRp = {R1b_PSRp/ ((2 * pi * fp2_PSRp * C1b_PSRp
+* R1b_PSRp) - 1)}
.param actual2_PSRp = {R2b_PSRp / (R1b_PSRp + R2b_PSRp)}
.param G2_PSRp= {1/actual2_PSRp}
.param R1b_PSRp=1Meg
.param fz2_PSRp={fz1_PSRp}
.param fp2_PSRp=1.8Meg
.param gain_CMR = {pow(10, (-Rej_dc_CMR/20))}
.param C1a_CMR = {1 / (2 * pi * R1a_CMR * fz1_CMR)}
.param R2a_CMR = {R1a_CMR/ ((2 * pi * fp1_CMR * C1a_CMR
+* R1a_CMR) - 1)}
.param actual1_CMR = {R2a_CMR / (R1a_CMR + R2a_CMR)}
.param G1_CMR = {gain_CMR/actual1_CMR}
.param Rej_dc_CMR=158.5
.param R1a_CMR=1Meg
.param fz1_CMR=2
.param fp1_CMR=350k
.param Rser=200
.param Ccm=35p Rcm=400G
.param Cdiff=7p Rdiff=30k
.param BB=6.8n fC=80m M=0.62 fA={BB*(fC**M)}
.ends ADA4522-4
